US07105567B2
By the reaction and treatment in the same manner as in Example 2 using [(1H-indol-3-yl)methyl](4-octylphenyl)amine (0.61 g) and 2,6-diisopropylphenyl isocyanate (0.41 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(1H-indol-3-yl)methyl]-N-(4-octylphenyl)urea (0.12 g) was obtained.

reactant | [(1H-indol-3-yl)methyl](4-octylphenyl)amine | 0.61 g | N1C=C(C2=CC=CC=C12)CNC1=CC=C(C=C1)CCCCCCCC | C23H30N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.41 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(1H-indol-3-yl)methyl]-N-(4-octylphenyl)urea | 0.12 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)CCCCCCCC)CC1=CNC2=CC=CC=C12)=O | C36H47N3O
